US08735385B2
4-[(S)-3-((S)-2-Methyl-pyrrolidin-1-yl)-cyclopentyl]-phenylamine
{4-[(S)-3-((S)-2-Methyl-pyrrolidin-1-yl)-cyclopentyl]-phenyl}-carbamic acid benzyl ester (0.41 g, 1.08 mmol) was dissolved in MeOH (20 mL) to form a clear solution. The flask was flushed with nitrogen and Pd—C (10%) (50 mg) was added. The solution was stirred under H2 atmosphere at rt for 4 h. TLC (5% of 7N ammonia methanolic solution in DCM) indicated that the reaction was complete. The solution was filtered through a Celite pad, rinsed with MeOH. The filtrate was concentrated in vacuo to obtain 0.27 g (100% yield) of the title compound as an oil.

reactant | {4-[(S)-3-((S)-2-Methyl-pyrrolidin-1-yl)-cyclopentyl]-phenyl}-carbamic acid benzyl ester | 1.08 mmol, 0.41 g | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)[C@@H]1CC(CC1)N1[C@H](CCC1)C)=O | C24H30N2O2
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[(S)-3-((S)-2-Methyl-pyrrolidin-1-yl)-cyclopentyl]-phenylamine | 0.27 g, 100% yield | C[C@@H]1N(CCC1)C1C[C@H](CC1)C1=CC=C(C=C1)N | C16H24N2
